US06191124B1
1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-ethanone (Formula N-4), 0.44 g, and anisaldehyde (0.5 mL) were condensed according to non-critical variations in PREPARATION 15 to produce 3-(4-Methoxyphenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one, 0.65 g, (Formula N-5, X=4-methoxy), m.p. 180-187°.

reactant | 1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-ethanone | N=1C=C(N2C1SC1=C2CCCCC1)C(C)=O | C12H14N2OS
reactant | anisaldehyde | 0.5 mL | COC=1C=CC(=CC1)C=O | C8H8O2
product | 3-(4-Methoxyphenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one | COC1=CC=C(C=C1)C=CC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C20H20N2O2S
